US05095013
(2S,4S)-N-Allyloxycarbonyl-2-hydroxymethyl-4-mercaptopyrrolidine
A solution of (2S,4S)-4-acetylthio-N-allyloxycarbonyl-2-hydroxymethylpyrrolidine (1.17 g, 4.5 mmol) in methanol (25 ml) was treated with 2N sodium hydroxide solution (4.95 ml) under ice-cooling, followed by stirring for 30 minutes, and partitioned between 6N hydrochloric acid (1.65 ml) and ethyl acetate (100 ml). The organic layer was washed with saturated aqueous sodium chloride (30 ml×3), dried over anhydrous sodium sulfate, and evaporated to afford the title compound (875 mg, 90% yield) as an oil.

reactant | (2S,4S)-4-acetylthio-N-allyloxycarbonyl-2-hydroxymethylpyrrolidine | 4.5 mmol, 1.17 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CO | C11H17NO4S
reactant | sodium hydroxide | 2N, 4.95 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | (2S,4S)-N-Allyloxycarbonyl-2-hydroxymethyl-4-mercaptopyrrolidine | 875 mg, 90% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CO | C9H15NO3S
